US06350749B1
In benzene (15 ml) was dissolved 7-(2,5-dichlorothiophen-3-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (1.09 g), and to the solution was added m-chloroperbenzoic acid (0.963 g). The mixture was stirred at room temperature for 1 hour, and to the mixture were added ethyl acetate (150 ml), saturated sodium hydrogen carbonate solution (200 ml) and sodium nitrite(200 mg). The mixture was shaken, and the separated upper layer was washed with water and concentrated under reduced pressure. The residue was washed with a mixture of isopropylether and ethyl acetate (2:1) to give 7-(2,5-dichlorothiophen-3-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one-1-oxide (1.04 g) as yellow crystals.

reactant | 7-(2,5-dichlorothiophen-3-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 1.09 g | ClC=1SC(=CC1C1CC(C=2C(=CC=NC2C1)C)=O)Cl | C14H11Cl2NOS
reactant | m-chloroperbenzoic acid | 0.963 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
reactant | sodium nitrite | 200 mg | N(=O)[O-].[Na+]
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 7-(2,5-dichlorothiophen-3-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one-1-oxide | 1.04 g | ClC=1SC(=CC1C1CC(C=2C(=CC=[N+](C2C1)[O-])C)=O)Cl | C14H11Cl2NO2S
